US09403849B2
a) 9-(4-Methylnaphth-1-yl)anthracene
3.6 g (11.7 mmol) of tri-o-tolylphosphine and then 437 mg (1.9 mmol) of palladium(II) acetate are added with vigorous stirring to a suspension of 93.0 g (500 mmol) of 4-methylnaphthalene-1-boronic acid, 100.0 g (389 mmol) of 9-bromoanthracene, 212.3 g (1 mol) of tripotassium phosphate in a mixture of 400 ml of dioxane, 600 ml of toluene and 1000 ml of water, and the mixture is refluxed for 16 h. After the reaction mixture has been cooled, the organic phase is separated off and washed three times with 500 ml of water. The organic phase is subsequently filtered through silica gel and evaporated to dryness. The oil which remains is taken up in 1000 ml of ethanol and dissolved under reflux. After cooling, the colourless solid is filtered off with suction, again washed by stirring with 1000 ml of ethanol and finally dried under reduced pressure. Yield: 103.0 g (83.1% of theory), about 96% according to 1H-NMR.

reactant | tri-o-tolylphosphine | 11.7 mmol, 3.6 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-methylnaphthalene-1-boronic acid | 500 mmol, 93.0 g | CC1=CC=C(C2=CC=CC=C12)B(O)O | C11H11BO2
reactant | 9-bromoanthracene | 389 mmol, 100.0 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | tripotassium phosphate | 1 mol, 212.3 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 1.9 mmol, 437 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1000 ml | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(4-Methylnaphth-1-yl)anthracene | CC1=CC=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C25H18
